US04478849
1-(4-Carbomethoxyphenyl)propan-2-one oxime
1-(4-Carbomethoxyphenyl)-2-nitroprop-1-ene (31.0 g) in tetrahydrofuran (900 ml) was stirred with aluminium amalgam, made in the usual way from aluminium (13.5 g) and mercuric chloride (6.9 g). The mixture was cooled in ice and stirring was continued until reaction was complete. The slurry was filtered through celite and the filtrate was evaporated to give a cream solid (17.0 g). τ (CDCl3) 8.27 (3H, s), 6.22 (2H, s), 6.13 (3H, s), 2.63 (2H, d, J=8 Hz), 1.95 (2H, d, J=8 Hz).

reactant | 1-(4-Carbomethoxyphenyl)-2-nitroprop-1-ene | 31.0 g | C(=O)(OC)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C11H11NO4
reactant | aluminium | 13.5 g | [Al] | Al
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
product | 1-(4-Carbomethoxyphenyl)propan-2-one oxime | 17.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)=NO | C11H13NO3
